US06953857B2
3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methylsulfanyl-benzoic acid
To a solution of 300 mg 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-fluoro-benzoic acid methyl ester in 0.5 ml DMSO 70 mg NaSMe were added and stirred over night. After addition of 0.3 ml H2O and 20 mg lithium hydroxide monohydrate the solution was stirred for 5 h and then acidified with diluted HCl. The mixture was extracted with ethyl acetate, the organic layer dried over Na2SO4. Removal of the solvent yielded the acid as a yellow solid.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-fluoro-benzoic acid methyl ester | 300 mg | COC(C1=CC(=C(C=C1)F)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C16H13Cl2FO3
reactant | H2O | 0.3 ml | O | H2O
reactant | lithium hydroxide monohydrate | 20 mg | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
reactant | DMSO | 0.5 ml, 70 mg | CS(=O)C | C2H6OS
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methylsulfanyl-benzoic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1SC | C16H14Cl2O3S
